US04197311
Preparation of Potassium p-Chlorobenzyl Trithiocarbonate
To a flask containing 100 ml of water and 13.0 g (200 mmol) of 86.4% KOH is added 26.4 ml (31.7 g, 200 mmol) of 4-chlorobenzyl mercaptan at 20° C. Then 100 ml of toluene and 100 mg of tetrabutylammonium bisulfate, a phase transfer catalyst, is added and the reaction mixture stirred for 0.5 hours. The reaction mixture is cooled to 18° C. and 26.6 ml (220 mmol) of carbon disulfide is added. After stirring for 0.5 hours, the yellow color of the water layer indicates the formation of the potassium salt of p-chlorobenzyl trithiocarbonic acid.

reactant | KOH | 200 mmol, 13.0 g | [OH-].[K+]
reactant | 4-chlorobenzyl mercaptan | 200 mmol, 26.4 ml, 31.7 g | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | carbon disulfide | 220 mmol, 26.6 ml | C(=S)=S | CS2
reactant | potassium | [K] | K
reactant | p-chlorobenzyl trithiocarbonic acid | ClC1=CC=C(CSC(S)=S)C=C1 | C8H7ClS3
catalyst | tetrabutylammonium bisulfate | 100 mg | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | Potassium p-Chlorobenzyl Trithiocarbonate | C(SCC1=CC=C(C=C1)Cl)([S-])=S.[K+] | InChI=1S/C8H7ClS3.K/c9-7-3-1-6(2-4-7)5-12-8(10)11;/h1-4H,5H2,(H,10,11);/q;+1/p-1
